US08685993B2
Preparation of intermediate N′-{5-[(2E)-3-(dimethylamino)prop-2-enoyl]-4-methylpyrimidin-2-yl}-N,N-dimethylimidoformamide (27)
A solution of 5-acetyl-2-Amino-4-methypyrimidine (Alfa Aesar) (1.00 g, 6.62 mmol) in DMF-DMA (35.4 mL, 265 mmol) was heated at 120° C. for 18 hours. The reaction mixture was concentrated in vacuo, then was purified by Biotage™ silica gel chromatography [50 g SNAP column, 2-10% MeOH/DCM] to obtain a pale yellow solid as the desired product, which was dried over high vacuum for 1 hour (1.06 g, 61% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 2.42 (s, 3H) 2.86 (br. s., 3H) 3.03 (s, 3H) 3.10 (br. s., 3H) 3.13 (s, 3H) 5.40 (d, J=12.63 Hz, 1H) 7.50 (d, J=12.63 Hz, 1H) 8.48 (s, 1H) 8.64 (s, 1H).

reactant | 5-acetyl-2-Amino-4-methypyrimidine | 6.62 mmol, 1.00 g | C(C)(=O)C=1C(=NC(=NC1)N)C | C7H9N3O
reactant | DMF-DMA | 265 mmol, 35.4 mL | CN(C)C(OC)OC | C5H13NO2
product | N′-{5-[(2E)-3-(dimethylamino)prop-2-enoyl]-4-methylpyrimidin-2-yl}-N,N-dimethylimidoformamide | 61% yield | CN(/C=C/C(=O)C=1C(=NC(=NC1)N=CN(C)C)C)C | C13H19N5O
